US08471005B2
N-tert-Butyl-3-{2-[4-(1,1-dioxo-1 $1(6)-thiomorpholin-4-ylmethyl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-benzenesulfonamide was prepared from (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(1,1-dioxo-1$1(6)-thiomorpholin-4-ylmethyl)-phenyl]-amine and 3-t-Butylsulfamoylphenylboronic acid in an analogous manner to Example 1031b. Product isolated as a yellow foam (90 mg, 71%). LCMS (m/e) 569 (M+H); 1H-NMR (CDCl3, 400 MHz) δ 8.79 (s, 1H), 8.72 (s, 1H), 8.17 (d, 1H, J=7.9 Hz), 7.87 (d, 1H, J=7.9 Hz), 7.63-7.53 (m, 3H), 7.33 (d, 2H, J=8.3 Hz), 7.13 (s, 1H), 7.03 (d, 1H, J=4.8 Hz), 6.84 (d, 1H, J=4.8 Hz), 4.92 (s, 1H), 3.63 (s, 2H), 3.14-3.04 (m, 4H), 3.04-2.96 (m, 4H), 1.22 (s, 9H).

reactant | (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(1,1-dioxo-1$1(6)-thiomorpholin-4-ylmethyl)-phenyl]-amine | BrC1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)CN2CCS(CC2)(=O)=O | C17H18BrN5O2S
reactant | 3-t-Butylsulfamoylphenylboronic acid | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=CC1)B(O)O | C10H16BNO4S
product | N-tert-Butyl-3-{2-[4-(1,1-dioxo-1 $1(6)-thiomorpholin-4-ylmethyl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-benzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)CN2CCS(CC2)(=O)=O | C27H32N6O4S2
